US04190650
In a 1 liter autoclave equipped with an electromagnetic reciprocating stirrer, 228 g of vinylphosphonic acid diethyl ester and 100 ppm of rhodium as dimeric cyclooctadien-1,5-yl rhodium chloride in 600 ml of toluene as solvent are heated at 80° C. and reacted under a pressure of 600 bars with a mixture of carbon monoxide and hydrogen in a ratio of 1:1. The pressure is maintained for 12 hours by topping up with the gas mixture. The contents are allowed to cool before the pressure on the autoclave is released. The reaction mixture is worked up by distillation. There is obtained 191 g of α-formylethanephosphonic acid diethyl ester; b.p.: 113° C./11 mm Hg.

reactant | vinylphosphonic acid diethyl ester | 228 g | C(C)OP(OCC)(=O)C=C | C6H13O3P
reactant | carbon monoxide | [C]=O | CO
reactant | hydrogen | [H][H] | H2
reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
catalyst | rhodium | [Rh] | Rh
product | α-formylethanephosphonic acid diethyl ester | 191 g | C(C)OP(OCC)(=O)C(C)C=O | C7H15O4P
